US08137821B2
Synthesis of 5-chloro-8-trifluoromethanesulfonyloxyquinoline
4.49 g (25 mmol) of 5-Chloro-8-quinolinol and 25 ml of methylene chloride were added. The internal temperature was cooled to 4° C. in an ice-water bath, and then 4.5 ml (32.5 mmol) of triethylamine was added thereto. After the internal temperature descends down to 1° C., 4.63 ml (27.5 mmol) of trifluoromethanesulfonic anhydride was added dropwise thereto. The reaction mixture varied to approximately black was stirred in the ice-water bath for 1 hour. After completion of the reaction, the reaction mixture was poured into water and the mixture was extracted with diethyl ether. The extract was washed with 1 mol/L (liter) of hydrochloric acid and water, and then the solvent was distilled off under reduced pressure by an evaporator to give a brown solid. The solid was dissolved in hot hexane (70° C.) and suction filtration was carried out to remove the insolbles. The filtrate was cooled to −78° C. to give 7.0 g of the desired compound as a pale orange-color solid (yield: 90%).

reactant | 5-Chloro-8-quinolinol | 25 mmol, 4.49 g | ClC1=C2C=CC=NC2=C(C=C1)O | C9H6ClNO
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 32.5 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 27.5 mmol, 4.63 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 5-chloro-8-trifluoromethanesulfonyloxyquinoline | 7.0 g, yield: 90% | ClC1=C2C=CC=NC2=C(C=C1)OS(=O)(=O)C(F)(F)F | C10H5ClF3NO3S
